US06306598B1
Ganglioside GM1, cholera toxin from Vibrio Cholerae, human serum albumin, and wheat germ agglutinin were purchased from Sigma. 5,7-docosadiynoic acid was synthesized. Deionized water was obtained by passing distilled water through a Millipore μF ultrapurification train. Solvents used were reagent grade. The ganglioside GM1 was mixed at 5 mol % with the diacetylene “matrix lipid” monomers. Liposomes were prepared using the probe sonication method and polymerized by UV irradiation (254 nm). The conjugated ene-yne backbone of polydiacetylene liposomes results in the appearance of a deep blue/purple solution. The visible absorption spectrum of the freshly prepared purple liposomes is shown in FIG. 25.

reactant | Ganglioside GM1 | CCCCCCCCCCCCCCCCCC(=O)N[C@@H](CO[C@H]1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O[C@H]2[C@@H]([C@H]([C@H]([C@H](O2)CO)O[C@H]3[C@@H]([C@H]([C@H]([C@H](O3)CO)O)O[C@H]4[C@@H]([C@H]([C@H]([C@H](O4)CO)O)O)O)NC(=O)C)O[C@@]5(C[C@@H]([C@H]([C@@H](O5)[C@@H]([C@@H](CO)O)O)NC(=O)C)O)C(=O)O)O)O)O)[C@@H](/C=C/CCCCCCCCCCCCC)O | C73H131N3O31
reactant | water | O | H2O
product | 5,7-docosadiynoic acid | C(CCCC#CC#CCCCCCCCCCCCCCC)(=O)O | C22H36O2
